US07402595B2
2-benzyl-6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
To a solution of sodium methoxide in methanol (28%, 4 ml) was added 2-benzyl-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (350 mg), and the mixture was heated under reflux for 6 hrs. To the reaction mixture were added water and 10% hydrochloric acid to acidify the aqueous layer of the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was crystallized from ethyl acetate to give the title compound (260 mg).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-benzyl-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 350 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)F)=O | C23H16FNO3
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 2-benzyl-6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 260 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)OC)=O | C24H19NO4
